US08859591B2
To a solution of 4-(3-methylbutanoyl)benzoic acid (9.5 g, 46 mmol) in N,N-dimethylformamide (80 mL) was added O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (26.3 g, 69.1 mmol) at 0° C. The mixture was stirred for 40 minutes. Methyl 3-aminopropanoate hydrochloride (7.72 g, 55.3 mmol) and triethylamine (23.3 g, 230 mmol) were added and the reaction was allowed to warm to room temperature and stir for 16 hours. The reaction mixture was extracted with ethyl acetate (3×). The combined organics were washed with brine, dried over sodium sulfate, filtered, and concentrated. Purification by column chromatography gave methyl 3-(4-(3-methylbutanoyl)benzamido)propanoate (10 g, 77%) as a pale yellow solid. 1H NMR (400 MHz, CDCl3, δ): 7.98 (d, J=8.0 Hz, 2H), 7.83 (d, J=8.4 Hz, 2H), 6.91 (s, 1H), 3.72-3.76 (m, 5H), 2.84 (d, J=6.0 Hz, 2H), 2.66-2.69 (t, J=6.0 Hz, 2H), 2.23-2.33 (m, 1H), 0.99 (d, J=6.4 Hz, 6H).

reactant | 4-(3-methylbutanoyl)benzoic acid | 46 mmol, 9.5 g | CC(CC(=O)C1=CC=C(C(=O)O)C=C1)C | C12H14O3
reactant | O-(7-Azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 69.1 mmol, 26.3 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | Methyl 3-aminopropanoate hydrochloride | 55.3 mmol, 7.72 g | Cl.NCCC(=O)OC
reactant | triethylamine | 230 mmol, 23.3 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
product | methyl 3-(4-(3-methylbutanoyl)benzamido)propanoate | 10 g, 77% | CC(CC(=O)C1=CC=C(C(=O)NCCC(=O)OC)C=C1)C | C16H21NO4
